US04000153
In the manner given in Example 7, 2',5-dichloro-2-[3-(chloromethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzophenone is treated with potassium iodide in acetone to give 2',5-dichloro-2-[3-(iodomethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzophenone of melting point 185°-195° C. (decomposition).

reactant | 2',5-dichloro-2-[3-(chloromethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)Cl)N1C(=NN=C1C)CCl)=O | C17H12Cl3N3O
reactant | potassium iodide | [I-].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 2',5-dichloro-2-[3-(iodomethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)Cl)N1C(=NN=C1C)CI)=O | C17H12Cl2IN3O
